.subckt test_netlist gate_drive1 sw_node_hs1 gate_drive2 sw_node_hs2 gate_drive3 sw_node_hs3 sin_ref tri_ref
XX1 gate_drive1 sw_node_hs1 gate_drive2 sw_node_hs2 gate_drive3 sw_node_hs3 sin_ref tri_ref
.ends test_netlist



******************************************************************************************************************
* STEPS TO GET FROM LTSPICE NETLIST TO THIS NGSPICE NETLIST:
* Delete everything that's not a subcircuit (including end of file top-level statements such as .tran, .end);
* This file is only a collection of subcircuits, not a complete SPICE netlist.
* Add parameters to each subckt line (just copy from any instantiation of said subcircuit; do not include "params:")
* Change unicode 'mu' to 'u'
* Replace any dash in any subcircuit name with an underscore 
* Add top subcircuit ngspice_top using instantiation line for XX1 in original top-level netlist (see text before this note)
*	It is important to include the XX1 instantiation as above otherwise the models below do not get connected
******************************************************************************************************************

.subckt test_netlist gate_drive1 sw_node_hs1 gate_drive2 sw_node_hs2 gate_drive3 sw_node_hs3 sin_ref tri_ref



* Test circuit 1
V1 N200 0 100
R1 N200 sw_node_hs1 1
S1 sw_node_hs1 0 gate_drive1 0 myswitch
V2 gate_drive1 0 PULSE(0 10 0 1n 1n 25u 50u 200)
*output load
R23 0 sw_node_hs1 1




* Test circuit 2
V3 N201 0 100
R3 N201 sw_node_hs2 1
S5 sw_node_hs2 0 gate_drive2 0 myswitch
V4 N101 0 PULSE(0 10 0 1n 1n 30u 60u 200)
B1 gate_drive2 0 V=V(N101)
*output load
R26 0 sw_node_hs2 1


* Test circuit 3
V5 N301 0 100
R4 N301 sw_node_hs3 1
S6 sw_node_hs3 0 gate_drive3 0 myswitch
V6 gate_drive3 0 PULSE(0 10 0 50u 50u 1n 100u 200)
*B2 gate_drive3 0 V=V(tri_ref)
*B2 gate_drive3 0 V=V(N102)
*output load
R27 0 sw_node_hs3 1

* driver comparing sin to tri references
* high side comparator
*V4 N100 0 10
*R24 N100 N102 1
*S10 N102 0 sin_ref tri_ref myswitch
*B2 hs_drive 0 V=V(N101)
* drive circuit with deadband
*R18 hs_drive N023 10
*R19 hs_drive 0 10
*C5 N023 0 10n




.model myswitch SW(Ron=0.002 Roff=1000000 Vt=3.0)

.ends test_netlist


